Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Indeterminate colitis, question Crohn disease.

 
Major Surgical or Invasive Procedure:
Panproctocolectomy.

 
History of Present Illness:
This is a ___ yo F with a history of colitis refractory to 
medical treatment with steroids dependece. Therapeutic options 
were discussed at ___ and she  elected to undergo 
panproctocolectomy with ileostomy.
 
Past Medical History:
Ulcerative colitis vs. Crohn (steroid dependence, pseudopolyps 
in sigmoid colon), arthritis (prednisone, remicade)

PSH: none

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
General:No acute distress, alert and oriented x3,
Cardiac: Regular rythm and rate, no mumur, rubs or gallops
Pulmonary: clear to auscultate bilaterally,no wheeze,no rhonchi
Abdomen: soft sontender, nondistended, no rebound guarding, 
+bowel sounds
Incision:  abdominal with staples clean, dry and intact, no 
erythema or edema.
Ostomy: stoma pink and protruding 
Extremities: +2 dorsalis pedis, no edema

 
Pertinent Results:
___ 01:43PM   SODIUM-137 POTASSIUM-3.8 CHLORIDE-108
___ 01:43PM   MAGNESIUM-1.7
___ 01:43PM   HCT-31.1*
___ 10:45AM   WBC-5.9 RBC-3.70* HGB-11.1* HCT-32.2* MCV-87 
MCH-29.9 MCHC-34.4 RDW-13.5
___ 10:45AM   PLT COUNT-293
 
Brief Hospital Course:
___ was admitted to the General Surgery Service on 
___ and is status post panproctocolectomy.
She tolerated the procedure well (the reader is referred to the 
operative note for details) and after a brief, uneventful stay 
in the PACU she was transferred to the floor in stable 
condition, NPO with IVF, with a foley catheter in place and a 
dilaudid PCA for pain control. She had asymptomatic hupotension 
butwas otherwise stable. She continued on Hydrocortisone 50 mg 
IV Q8H which was subsequently tapered.
On postoperative day 1 the patient was started on sips. On 
postoperative day 2, had return of bowel function and diet was 
advanced to clear liquids. The PCA was discontinued and she was 
started on oral analgesia. The foley catheter was discontinued 
and she voided without difficulty. On postoperative day 3 her 
diet was advanced to regular and tolerated. 
At the time of discharge the patient was afebrile, vital signs 
were stable and she was tolerating a regular diet, ambulating 
and voiding without assistance.
She received discharge teaching a follow-up instructions with 
understanding verbalized and agreemen with the discharge plan.
 
Medications on Admission:
Levoxyl 125', Balasalazide 3000 TID, prednisone 2.5', Remicade 
10mg/kg q2months, Folic acid 1mg', Calcium 1000', Vit D 5000u', 
Vit D2 50,000 qweek, B complex', zinc 25', immodium 2mg qHS

 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for pain.  
2. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain.
Disp:*80 Tablet(s)* Refills:*0*
3. levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. calcium carbonate 200 mg (500 mg) Tablet, Chewable Sig: One 
(1) Tablet, Chewable PO DAILY (Daily).  
6. prednisone 2.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. cholecalciferol (vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Indeterminate colitis, question Crohn disease.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the General Surgery Inpatient Unit after 
your surgery.  You have tolerated a regular diet and are ready 
for discharge. While you were in the hospital we tapered your 
dosage of steroids down, and this will continue in the 
outpatient setting. We were pleased with your ostomy output and 
your ability to tolerate a regular diet, and you were deemed 
safe for discharge home.

Please make sure to care for your ostomy as you were instructed 
by the ostomy nurse, and a visiting nurse ___ also come by to 
help you.  Monitor your bowel function closely. Keep track of 
your ostomy output, and make sure to drink enough fluids to keep 
up.  You have a new illeostomy which is expected to put out 
liquid green/brown stool. It is important to monitor the 
appearance of the stoma. The tissue of the stoma should be pink 
and health, if it changes to dark purple/blue in color, becomes 
edematous, or bleeding at the stoma incision this is not normal, 
please call Dr. ___ for assistance. 

***If you put out less than 500ml of liquid stool from the 
ostomy or greater that 1500cc please call the office. 

The major risk with an illeostomy is dehydration related to 
fluid loses. In the hot weather, please take in increased 
amounts of fluids and measure your ileostomy output. 

If you have any questions regarding the care of your ostomy, 
please refer to the instructions provided to you by the 
wound/ostomy nurses and the visiting nurses who will be visiting 
you at home. 

***If you have any of the following bowel symptoms please call 
the office or go to the emergency room if severe: increase 
abdominal distension, increased abdominal pain, abdominal, 
nausea, vomiting, inability to tolerate food or liquids, or 
decreased ostomy output. Watch for signs and symptoms of 
dehydration which can happen with a new illeostomy including: 
dry mouth, dizziness, increased thirst, weakness, or loss of 
conciousness. If you have any of these symptoms please call the 
office or go to the emergency if these symptoms are severe.  
Take all medications as prescribed, and do not drive while on 
pain medication. 

**Call and schedule a postoperative visit with Dr. ___ 
in 2 weeks or earlier if you have any questions or concerns.
 
Followup Instructions:
___